US08258140B2
Ammonium formate (99 g, 1568.94 mmol) was added to 6-[4-[4-[2-(4-acetylpiperazin-1-yl)ethoxy]phenyl]piperidin-1-yl]-3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazine (81.2 g, 156.89 mmol) and 10% palladium on carbon (8.35 g, 7.84 mmol) in EtOH (810 mL) under nitrogen. The resulting mixture was stirred at 70° C. for 6 hours, then ammonium formate (50 g) was added. The mixture was stirred at 70° C. for 2 hours then further portions of 10% palladium on carbon (8.35 g, 7.84 mmol) and ammonium formate (50 g) were added and stirring continued at 70° C. for a further 10 hours. Ammonium formate (50 g) was added and the reaction mixture was stirred at 70° C. for 24 hours then cooled to room temperature. The catalyst was removed by filtration and the reaction charged with further 10% palladium on carbon (8.35 g, 7.84 mmol) and stirred at 70° C. for 16 hours. Further ammonium formate (50 g) was added and the stirring continued for 5 hours. The reaction mixture was cooled to room temperature and a further portion of 10% palladium on carbon (8.35 g, 7.84 mmol) was added. The mixture was heated to 70° C. for a 30 hours, cooled to room temperature and the catalyst removed by filtration and washed with EtOH. The solvent was evaporated and the residue dissolved in DCM (500 mL) and the solution washed with water (500 mL). The aqueous layer was re-extracted with DCM (500 mL), then EtOAc (500 mL×2). The combined extracts were dried over MgSO4, filtered and evaporated to give crude product. The crude product was purified by flash silica chromatography, elution gradient 0 to 5% MeOH in DCM. Pure fractions were evaporated to dryness to afford a gum, which was slurried with ether (300 mL) and re-evaporated. Methyl tert-butyl ether (250 mL) was added and the mixture was stirred vigorously for 3 days. The solid was collected by filtration and dried to afford 6-(4-{4-[2-(4-acetylpiperazin-1-yl)ethoxy]phenyl}piperidin-1-yl)-3-(trifluoromethyl)-7,8-dihydro[1,2,4]triazolo[4,3-b]pyridazine (60.8 g, 75%) as a solid.

reactant | Ammonium formate | 1568.94 mmol, 99 g | C(=O)[O-].[NH4+]
reactant | 6-[4-[4-[2-(4-acetylpiperazin-1-yl)ethoxy]phenyl]piperidin-1-yl]-3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazine | 156.89 mmol, 81.2 g | C(C)(=O)N1CCN(CC1)CCOC1=CC=C(C=C1)C1CCN(CC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C25H30F3N7O2
reactant | ammonium formate | 50 g | C(=O)[O-].[NH4+]
reactant | ammonium formate | 50 g | C(=O)[O-].[NH4+]
reactant | Ammonium formate | 50 g | C(=O)[O-].[NH4+]
reactant | ammonium formate | 50 g | C(=O)[O-].[NH4+]
reactant | ether | 300 mL | CCOCC | C4H10O
catalyst | palladium on carbon | 7.84 mmol, 8.35 g | [Pd] | Pd
solvent | EtOH | 810 mL | CCO | C2H6O
catalyst | palladium on carbon | 7.84 mmol, 8.35 g | [Pd] | Pd
catalyst | palladium on carbon | 7.84 mmol, 8.35 g | [Pd] | Pd
catalyst | palladium on carbon | 7.84 mmol, 8.35 g | [Pd] | Pd
product | 6-(4-{4-[2-(4-acetylpiperazin-1-yl)ethoxy]phenyl}piperidin-1-yl)-3-(trifluoromethyl)-7,8-dihydro[1,2,4]triazolo[4,3-b]pyridazine | 60.8 g, 75% | C(C)(=O)N1CCN(CC1)CCOC1=CC=C(C=C1)C1CCN(CC1)C=1CCC=2N(N1)C(=NN2)C(F)(F)F | C25H32F3N7O2
